US07872031B2
N-Bromosuccinimide (4.9 g, 28.08 mmol) was added in portions to a solution of tert-butyl 4-(thiophen-2-yl)piperidine-1-carboxylate (5.0 g, 18.72 mmol) in MeCN at −10° C. The reaction mixture was stirred for 30 minutes and treated with sat. aq. NaHCO3 solution. The mixture was extracted with CH2Cl2 and the organics washed with water and brine solution, dried (Na2SO4), filtered, and evaporated to obtain crude product. Purification by silica gel chromatography (2% EtOAc/pet ether) yielded tert-Butyl 4-(5-bromothiophen-2-yl)piperidine-1-carboxylate (1.5 g, 21% from tert-butyl 4-hydroxy-4-(thiophen-2-yl)piperidine-1-carboxylate); 1H-NMR (400 MHz, CHCl3): 6.85 (d, 1H), 6.58 (d, 1H), 4.22-4.10 (d, 2H), 3.90-3.78 (m, 3H), 1.98-1.90 (d, 2H), 1.65-1.48 (m, 2H), 1.45 (s, 9H); ES-MS: 346.3, 348.3 (M+H).

reactant | N-Bromosuccinimide | 28.08 mmol, 4.9 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | tert-butyl 4-(thiophen-2-yl)piperidine-1-carboxylate | 18.72 mmol, 5.0 g | S1C(=CC=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C14H21NO2S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | MeCN | CC#N | C2H3N
product | tert-Butyl 4-(5-bromothiophen-2-yl)piperidine-1-carboxylate | 1.5 g, 21% | BrC1=CC=C(S1)C1CCN(CC1)C(=O)OC(C)(C)C | C14H20BrNO2S
